US08080566B1
A 250-mL round-bottomed flask was charged with 4-iodo-1H-pyrazole (17 g, 87.63 mmol, 1.00 equiv) in N,N-dimethylformamide (150 mL) To this was added sodium hydride (3.6 g, 105.00 mmol, 1.20 equiv, 70%) in several batches at 0° C., followed by addition of 1-(bromomethyl)benzene (16.5 g, 96.49 mmol, 1.10 equiv) dropwise at 0° C. The resulting solution was allowed to warm up to room temperature and stirred for 2 hours at room temperature. The reaction was then quenched by the addition of water/ice (200 mL). The resulting solution was extracted with ethyl acetate (3×200 mL). Combined organic layers were dried over anhydrous sodium sulfate, filtered off and concentrated on a rotary evaporator affording 1-benzyl-4-iodo-1H-pyrazole as yellow solid (22 g, 80%).

reactant | 4-iodo-1H-pyrazole | 87.63 mmol, 17 g, 1.00 equiv | IC=1C=NNC1 | C3H3IN2
reactant | sodium hydride | 105.00 mmol, 3.6 g, 1.20 equiv | [H-].[Na+]
reactant | 1-(bromomethyl)benzene | 96.49 mmol, 16.5 g, 1.10 equiv | BrCC1=CC=CC=C1 | C7H7Br
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 1-benzyl-4-iodo-1H-pyrazole | 22 g, 80% | C(C1=CC=CC=C1)N1N=CC(=C1)I | C10H9IN2
